US07718693B2
Methyl 1-ethyl-5-oxo-prolinate (1.91 g, 11.17 mmol) was dissolved in methanol (25 ml) and treated with 2M aqueous sodium hydroxide (7.3 ml, 14.52 mmol). The mixture was stirred for 4 hrs at room temperature and then washed with dichloromethane. The aqueous layer was evaporated and the residue treated with an excess of 1M hydrogen chloride in ether (˜5 ml). The mixture was evaporated once more and the residue was triturated with dichloromethane. The solid material was discarded and the combined dichloromethane fractions were evaporated to give a clear oil which crystallized on standing. Trituration with hexane and ether and drying gave pure 1-ethyl-5-oxo-proline (0.271 g) as a white solid.

reactant | Methyl 1-ethyl-5-oxo-prolinate | 11.17 mmol, 1.91 g | C(C)N1[C@H](C(=O)OC)CCC1=O | C8H13NO3
reactant | sodium hydroxide | 14.52 mmol, 2M, 7.3 ml | [OH-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
product | 1-ethyl-5-oxo-proline | 0.271 g | C(C)N1[C@H](C(=O)O)CCC1=O | C7H11NO3
